US09120822B2
Thiourea (190 mg, 2.5 mmol, 1.0 eq) is added at room temperature to a stirred solution of 2-bromo-1-(6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthren-3-yl)-ethanone (850 mg, 2.5 mmol, 1.0 eq) in ethanol (200 mL) and the resulting suspension is heated to reflux for 15 minutes. Then pH of the reaction mixture is adjusted to 8-10 by the addition of a 30% aqueous ammonia solution. Solvent was removed to give the crude product that is purified by preparative HPLC to afford 4-(6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthren-3-yl)-thiazol-2-ylamine as a white solid (60 mg, 13% yield).

reactant | Thiourea | 2.5 mmol, 190 mg, 1.0 eq | NC(=S)N | CH4N2S
reactant | 2-bromo-1-(6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthren-3-yl)-ethanone | 2.5 mmol, 850 mg, 1.0 eq | BrCC(=O)C1COC=2C=NC3=CC=C(C=C3C2C1)OC | C15H14BrNO3
reactant | ammonia | N | H3N
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 4-(6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthren-3-yl)-thiazol-2-ylamine | 60 mg, 13% yield | COC=1C=C2C=3CC(COC3C=NC2=CC1)C=1N=C(SC1)N | C16H15N3O2S
